US07030128B2
3-(2-Chloropyrimidin-4-yl)-7-(1-methyl-1-triethylsilanyloxyethyl)-imidazo-[1,2-α]pyrimidine (250 mg, 0.62 mmol) and 3,4-difluorobenzeneboronic acid (196 mg, 1.24 mmol) were reacted together as described in Example 61. Purification by column chromatography on silica using 2.5% MeOH/CH2Cl2 gave 3-[2-(3,4-difluorophenyl)pyrimidin-4-yl]-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine: m/z (ES+) 482 (M+H+).

reactant | 3-(2-Chloropyrimidin-4-yl)-7-(1-methyl-1-triethylsilanyloxyethyl)-imidazo-[1,2-α]pyrimidine | 0.62 mmol, 250 mg | ClC1=NC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C19H26ClN5OSi
reactant | 3,4-difluorobenzeneboronic acid | 1.24 mmol, 196 mg | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
product | 3-[2-(3,4-difluorophenyl)pyrimidin-4-yl]-7-(1-methyl-1-triethylsilanyloxyethyl)imidazo[1,2-α]pyrimidine | FC=1C=C(C=CC1F)C1=NC=CC(=N1)C1=CN=C2N1C=CC(=N2)C(C)(O[Si](CC)(CC)CC)C | C25H29F2N5OSi
